US06245761B1
Preparation of N,N-dimethyl-2-fluoro-5-bromobenzamide
A suspension of 2-fluoro-5-bromobenzoic acid (680 mg, 3.10 mmol) in methylene chloride (20 ml) was treated with oxalyl chloride (0.35 ml, 4.04 mmol), followed by four drops of N,N-dimethylformamide. The resulting clear solution was stirred for about three hours. The solvents were removed in vacuo and the residue was redissolved in methylene chloride and treated with dimethylamine (4.6 ml, 9.3 mmol). Stirring was continued for 18 hours. The reaction mixture was diluted with methylene chloride, and washed with saturated sodium bicarbonate and brine. The organic fraciton was dried over sodium sulfate, and the solvents were removed in vacuo. The desired title product was further purified by liquid chromatography.

reactant | 2-fluoro-5-bromobenzoic acid | 3.10 mmol, 680 mg | FC1=C(C(=O)O)C=C(C=C1)Br | C7H4BrFO2
reactant | oxalyl chloride | 4.04 mmol, 0.35 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylamine | 9.3 mmol, 4.6 ml | CNC | C2H7N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | four drops | CN(C=O)C | C3H7NO
product | N,N-dimethyl-2-fluoro-5-bromobenzamide | CN(C(C1=C(C=CC(=C1)Br)F)=O)C | C9H9BrFNO
